US08383631B2
1-(4-t-butylphenyl)piperazine
1-Bromo-4-t-butylbenzene (2.38 mL, 14 mmol), piperazine (1.8 g, 21 mmol), sodium t-butoxide (1.95 g, 20.3 mmol) and dichlorobis(tri-o-tolylphosphine)palladium(II) (330.1 mg, 0.42 mmol) were dissolved in anhydrous toluene and reacted for 3 hours while heating at 100° C. After identifying complete disappearance of 1-bromo-4-t-butylbenzene by TLC, the reaction solution was filtered with celite. The filtrate was concentrated and purified by separation through column chromatography (CH2Cl2/MeOH, 1:1). A target compound (1.47 g, 6.732 mmol, 48.2%) was yielded.

reactant | 1-Bromo-4-t-butylbenzene | 14 mmol, 2.38 mL | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | piperazine | 21 mmol, 1.8 g | N1CCNCC1 | C4H10N2
reactant | sodium t-butoxide | 20.3 mmol, 1.95 g | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(tri-o-tolylphosphine)palladium(II) | 0.42 mmol, 330.1 mg | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 1-(4-t-butylphenyl)piperazine | 6.732 mmol, 1.47 g, 48.2% | C(C)(C)(C)C1=CC=C(C=C1)N1CCNCC1 | C14H22N2
